US07262185B2
2-methoxy-4-nitrophenol (19.2 g) was dissolved in methylene chloride (192 ml), triethylamine (20.5 ml) was added to the mixture, trifluoromethanesulfonic acid anhydride (23.0 ml) was added dropwise to the solution at 0° C., and the mixture was stirred for 1 hour at room temperature. The reaction solution was added to water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, the obtained residue was dissolved in ethanol (274 ml) under heat reflux, and an aqueous solution (342 ml) of sodium sulfate nanohydrate (21.1 g) and sulfur (2.8 g) in ethanol was added dropwise thereto for 20 minutes. Aqueous solution of sodium hydroxide (7.02 g, 28.1 ml) was added dropwise to the solution for 20 minutes, and then, the mixture was cooled to room temperature, ice-water was added thereto. The precipitates were filtered, and the pH of the filtrate was adjusted to about pH 5 with 6N hydrochloric acid, and the precipitates were collected by filtration, and washed with water to give 2-methoxy-4-nitrobenzenethiol (15.8 g, 75%).

reactant | 2-methoxy-4-nitrophenol | 19.2 g | COC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO4
reactant | triethylamine | 20.5 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 23.0 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | methylene chloride | 192 ml | C(Cl)Cl | CH2Cl2
product | 2-methoxy-4-nitrobenzenethiol | 15.8 g, 75% | COC1=C(C=CC(=C1)[N+](=O)[O-])S | C7H7NO3S
